US07968570B2
A mixture of 7-chloro-5-(3-dimethylamino-prop-1-ynyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.047 g, 0.11 mmol) and 10% palladium-carbon (0.015 g) in ethanol (25 mL) was reduced under 45 p.s.i. hydrogen. Workup and silica gel column chromatography using 5:1 CHCl3-MeOH afforded 7-chloro-5-(3-dimethylamino-propyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.020 g, 42%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.78 (m, 2H), 2.2 (m, 6H), 2.31 (t, 2H), 2.66 (t, 2H), 4.22 (s, 2H), 4.74 (s, 2H), 6.88-7.38 (m, 11H).

reactant | 7-chloro-5-(3-dimethylamino-prop-1-ynyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.11 mmol, 0.047 g | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1)C#CCN(C)C | C26H23ClN2O2
reactant | hydrogen | [H][H] | H2
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.015 g | [C].[Pd]
product | 7-chloro-5-(3-dimethylamino-propyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.020 g, 42% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1)CCCN(C)C | C26H27ClN2O2
